US05359055
The reaction and workup procedures of Example 156 were repeated except that 100 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl )-3β-(methoxycarbonyl)oxypregna-5,7-dien-1α-ol was used in lieu of 100 mg of 20-(5,5-dimethoxycarbonyl)oxypregna-1,3-dioxan-2-yl)-1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene to give 55 mg of 3β-hydroxy-1α-(methoxycarbonyl)oxypregna-5,7-diene-20-carbaldehyde showing the following physical properties.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl )-3β-(methoxycarbonyl)oxypregna-5,7-dien-1α-ol | 100 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)OC(=O)OC)C | C29H44O6
reactant | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](CC)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C25H36O6
product | 3β-hydroxy-1α-(methoxycarbonyl)oxypregna-5,7-diene-20-carbaldehyde | 55 mg | O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@]2([C@H](C1)OC(=O)OC)C)C | C24H34O5
